US05378728
4-(2,2-dimethy1-oxopropyl)-N-methoxybenzamide
A solution of 67.2 grams of 4-(2,2-dimethyl-1-oxopropyl)-benzoyl chloride dissovled in 100 millimeters of tetrahydrofuran (THF) is added dropwise to a suspension of 25.0 grams of methoxyamine hydrochloride and 256 grams of finely ground anhydrous potassium carbonate in 1.1 liters of THF. The reaction mixture is stirred at 23° C. overnight and then heated to 50° to 55° C. for 5 hours. This mixture is cooled to room temperature and filtered. The residue is washed with THF, and the filtrates are combined and evaporated to dryness. The crude product is partitioned between 200 ml of chloroform and 200 ml of cold 1 molar sodium carbonate solution, following which the organic phase is separated from the aqueous phase, dried with magnesium sulfate and evaporated to dryness. The residue is recrystallized twice from methylene chloride/t-butyl methyl ether to yield the pure title compound (mp 126°-127.5° C.).

reactant | 4-(2,2-dimethyl-1-oxopropyl)-benzoyl chloride | 67.2 grams | CC(C(=O)C1=CC=C(C(=O)Cl)C=C1)(C)C | C12H13ClO2
reactant | methoxyamine hydrochloride | 25.0 grams | Cl.CON
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 1.1 liters | O1CCCC1 | C4H8O
product | 4-(2,2-dimethy1-oxopropyl)-N-methoxybenzamide | CC(CC1=CC=C(C(=O)NOC)C=C1)(C=O)C | C13H17NO3
